US07582633B2
(5-{2-[4-(2-Chloro-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetic acid
The title compound was prepared in a similar manner as that described for Example 3 (step 4) from ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate, 2-chloro-5-fluorophenol, triphenylphosphine and diethyl azodicarboxylate.

reactant | ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate | OC1CCN(CC1)C1=NC=C(C=N1)C=1N=NN(N1)CC(=O)OCC | C14H19N7O3
reactant | 2-chloro-5-fluorophenol | ClC1=C(C=C(C=C1)F)O | C6H4ClFO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | (5-{2-[4-(2-Chloro-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetic acid | ClC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(N2)CC(=O)O)C=C(C=C1)F | C18H17ClFN7O3
